Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Augmentin / lisinopril
 
Attending: ___.
 
Chief Complaint:
Bilateral upper extremity pain and weakness
 
Major Surgical or Invasive Procedure:
ANTERIOR CERVICAL DISCECTOMY FUSION ___ with Dr. ___

 
___ of Present Illness:
___ is a generally healthy man who presented with a 
prolonged and progressively severe disorder of cervical 
radiculopathy affecting pain and also strength with weakness in 
his upper extremity.  He underwent a prolonged and multimodal 
course of conservative care without significant or lasting 
relief.  In this setting, he elected to undergo surgical 
treatment.

 
Past Medical History:
HTN
Hypercholesterolemia
BPH
 
Social History:
___
Family History:
1. Cancer 
 
Physical Exam:
PE: 
VS ___ ___ Temp: 98.3 PO BP: 161/87 HR: 75 RR: 18 O2 sat:
97% O2 delivery: Ra 
BMI: 25.1. 

NAD, A&Ox4
nl resp effort
RRR
dressing c/d/I
drain output 5 cc
  
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        SILT        SILT         SILT
L     SILT       SILT        SILT        SILT         SILT

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
UE   Dlt(C5) Bic(C6) WE(C6) Tri(C7) WF(C7) FF(C8)FinAbd(T1)
R      5       5       5      5       5      5     5
L      5       5       5      5       5      5     5

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

 
Pertinent Results:
___ 07:00AM BLOOD WBC-12.1* RBC-5.27 Hgb-16.6 Hct-49.2 
MCV-93 MCH-31.5 MCHC-33.7 RDW-13.0 RDWSD-44.3 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD Glucose-120* UreaN-12 Creat-1.2 Na-141 
K-4.4 Cl-98 HCO3-28 AnGap-15
___ 07:00AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.1
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#1. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Tamsulosin 0.4 mg PO QHS 
4. Chlorthalidone 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  Diazepam 5 mg PO Q12H:PRN spasm pain 
may cause drowsiness 
RX *diazepam 5 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*14 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
please do not operate heavy machinery, drink alcohol or drive 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
5.  Atorvastatin 10 mg PO QPM  
6.  Chlorthalidone 25 mg PO DAILY  
7.  Losartan Potassium 50 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1.  Cervical stenosis at C5-C6.
2.  Cervical radiculopathy.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ACDF:

You have undergone the following operation:Anterior Cervical 
Decompression and Fusion.

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit in a car or chair for more than~45 minutes without 
getting up and walking around. 

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.  

•                Swallowing:Difficulty swallowing is not 
uncommon after this type of surgery.This should resolve over 
time.Please take small bites and eat slowly.Removing the collar 
while eating can be helpful–however,please limit your movement 
of your neck if you remove your collar while eating.

•                Cervical Collar / Neck Brace:If you have been 
given a soft collar for comfort, you may remove the collar to 
take a shower or eat.Limit your motion of your neck while the 
collar is off.You should wear the collar when walking,especially 
in public.

•                Wound Care:Remove the dressing in 2 days.If the 
incision is draining cover it with a new sterile dressing.If it 
is dry then you can leave the incision open to the air.Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower.Do not soak the incision in a 
bath or pool.If the incision starts draining at anytime after 
surgery,do not get the incision wet.Call the office at that 
time. 

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so plan ahead.You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2.We are not allowed to call in narcotic 
(oxycontin,oxycodone,percocet) prescriptions to the pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

                At the 2-week visit we will check your 
incision,take baseline x rays and answer any questions.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit, drainage from your wound,or have any questions.

 
 
Followup Instructions:
___